US05811433
c. 7,8Dichloro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid
3.3 g (0.0087 mol) of ethyl 7,8-dichloro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate are heated at reflux in a mixture of 11.5 ml of acetic acid, 11.5 ml of water and 1.15 ml of concentrated sulphuric acid for two hours. The cooled mixture is put into ice-water, the product is isolated and washed with water.

reactant | ethyl 7,8-dichloro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | 0.0087 mol, 3.3 g | ClC1=NC=C2C(C(=CN(C2=C1Cl)C1=CC=C(C=C1)F)C(=O)OCC)=O | C17H11Cl2FN2O3
reactant | water | 11.5 ml | O | H2O
reactant | sulphuric acid | 1.15 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 11.5 ml | C(C)(=O)O | C2H4O2
product | 7,8Dichloro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid | ClC1=NC=C2C(C(=CN(C2=C1Cl)C1=CC=C(C=C1)F)C(=O)O)=O | C15H7Cl2FN2O3
